US09315491B2
Phenyl 4-(5-(methylsulfinyl)-4-morpholinopyrimidin-2-yl)phenylcarbamate
The H2O2 (0.32 ml, 3.13 mmole) solution was added to a stirred solution of phenyl 4-(5-(methylthio)-4-morpholinopyrimidin-2-yl)phenylcarbamate (0.54 g, 1.28 mmole), CH2Cl2 (7 ml), Ac2O (0.13 ml), and silica gel (230-400 mesh, 200 mg). The solution was stirred at room temperature for 2-3 hrs, and quenched with NaHSO3(aq) (70 ml), and NaHCO3(aq) (70 ml), the solvent was removed, the residue was chromatographed to give the product (71%) as a white solid.

reactant | H2O2 | 3.13 mmole, 0.32 ml | OO | H2O2
reactant | phenyl 4-(5-(methylthio)-4-morpholinopyrimidin-2-yl)phenylcarbamate | 1.28 mmole, 0.54 g | CSC=1C(=NC(=NC1)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O)N1CCOCC1 | C22H22N4O3S
reactant | Ac2O | 0.13 ml | CC(=O)OC(=O)C | C4H6O3
solvent | CH2Cl2 | 7 ml | C(Cl)Cl | CH2Cl2
product | Phenyl 4-(5-(methylsulfinyl)-4-morpholinopyrimidin-2-yl)phenylcarbamate | 71% | CS(=O)C=1C(=NC(=NC1)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O)N1CCOCC1 | C22H22N4O4S
